US05308854
Step D: Preparation of 2-methoxy-5-ethyl-6-methyl-nicotinaldehyde
A solution of 80% pure 3-[2-(benzoxazol-2-yl)ethenyl]-5-ethyl-6-methyl-2-(1H)-pyridinone (200 mg) in methanol/ethanol/THF (25 mL, 1:1:1) was hydrogenated at atmospheric pressure over 5% palladium/charcoal for four hours. After filtering off the catalyst, the solvents were evaporated and the residue flash chromatographed over silica gel. Elution with 2% methanol-98% chloroform gave 75 mg of analytically pure product, mp 155°-156.5° C.

reactant | 3-[2-(benzoxazol-2-yl)ethenyl]-5-ethyl-6-methyl-2-(1H)-pyridinone | 200 mg | O1C(=NC2=C1C=CC=C2)C=CC=2C(NC(=C(C2)CC)C)=O | C17H16N2O2
reactant | methanol ethanol THF | 25 mL | CO.C(C)O.C1CCOC1
catalyst | palladium/charcoal | [Pd] | Pd
product | 2-methoxy-5-ethyl-6-methyl-nicotinaldehyde | COC1=C(C=O)C=C(C(=N1)C)CC | C10H13NO2
